US05804583
7-Butyl-3-methyl-6-[[2'-(1H-tetrazol-5-yl)biphenyl-4-yl]methyl]imidazo[1,2-a]pyrimidin-2,5-dione
A solution of 0.2 g of 7-butyl-6-((2'-cyanobiphenyl-4-yl)methyl]-3-methylimidazo[1,2-a]pyrimidin-2,5-dione in 4 ml of toluene and 1 ml of DMF is added with 38 mg of sodium azide and 0.17 ml of tributylstannyl chloride. After 72 h under reflux, the solvent is evaporated under reduced pressure and the residue is taken up in a NaOH diluted solution and extracted with toluene. The aqueous phase is acidified to pH 5 with AcOH, to separate a white solid which is filtered off and washed first with H2O, and then with a mixture of hexane-toluene to obtain g 0.1 of a white solid, after crystallization (45% yield).

reactant | 7-butyl-6-((2'-cyanobiphenyl-4-yl)methyl]-3-methylimidazo[1,2-a]pyrimidin-2,5-dione | 0.2 g | C(CCC)C=1N=C2N(C(C1CC1=CC=C(C=C1)C1=C(C=CC=C1)C#N)=O)C(C(N2)=O)C | C25H24N4O2
reactant | sodium azide | 38 mg | [N-]=[N+]=[N-].[Na+]
reactant | tributylstannyl chloride | 0.17 ml | C(CCC)[Sn](CCCC)(CCCC)Cl
solvent | toluene | 4 ml | C1(=CC=CC=C1)C | C7H8
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
product | 7-Butyl-3-methyl-6-[[2'-(1H-tetrazol-5-yl)biphenyl-4-yl]methyl]imidazo[1,2-a]pyrimidin-2,5-dione | 45% yield | C(CCC)C=1N=C2N(C(C1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1)=O)C(C(N2)=O)C | C25H25N7O2
